US04401473
2.1 Preparation of 2-dimethylphosphinylethanephosphonic acid dimethyl ester
95 g of vinyldimethylphosphine oxide are dissolved in dioxane and rendered alkaline with sodium methoxide solution. 100 g of dimethyl phosphite are added dropwise, in an exothermic reaction. The mixture is then subjected to fractional distillation, which gives 104 g of product, boiling point at 0.4 mm Hg: 182° C. (yield: 53% of theoretical). The first runnings of the distillation contain unreacted dimethyl phosphite and vinyldimethylphosphine oxide, which can be used again in a further batch.

reactant | vinyldimethylphosphine oxide | 95 g | C(=C)P(C)(C)=O | C4H9OP
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethyl phosphite | 100 g | P(OC)(OC)[O-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-dimethylphosphinylethanephosphonic acid dimethyl ester | 104 g, yield: 53% | COP(OC)(=O)CCP(=O)(C)C | C6H16O4P2
